US05948911
Following the procedure of Example 1, the reaction of 3,4-methylenedioxyphenethylamine with 2,4,6-trichloro-thieno-[2,3-d]-pyrimidine yields 2,6-dichloro-4-(3,4-methylenedioxyphenethylamino)-thieno-[2,3-d]-pyrimidine.

reactant | 3,4-methylenedioxyphenethylamine | C1OC=2C=C(CCN)C=CC2O1 | C9H11NO2
reactant | 2,4,6-trichloro-thieno-[2,3-d]-pyrimidine | ClC=1N=C(C2=C(N1)SC(=C2)Cl)Cl | C6HCl3N2S
product | 2,6-dichloro-4-(3,4-methylenedioxyphenethylamino)-thieno-[2,3-d]-pyrimidine | ClC=1N=C(C2=C(N1)SC(=C2)Cl)NCCC2=CC1=C(C=C2)OCO1 | C15H11Cl2N3O2S
